US07381719B2
1-[1-(4-Methoxy-benzyl)-piperidin-3-yl]-butan-1-one
Combine 1-(4-Methoxy-benzyl)-piperidine-3-carboxylic acid methoxy-methyl-amide (401.0 mg, 1.37 mmol) and THF (10 mL) at 0° C. under a Nitrogen atmosphere. By dropwise addition, add Propylmagnesium chloride (4.0 mL, 8.22 mmol). Reflux the reaction for 5 hours then cool the reaction to room temperature and quench the reaction mixture with sat NH4Cl (aq) and extract product from the water using Ethyl acetate. Wash the organic layer with brine and then dry over Na2SO4. Concentrate under reduced pressure and add to an SCX (5 g) column pre-treated with 5% AcOH/MeOH. Wash with MeOH and elute product using 1N NH3 MeOH to give 356.0 mg (94% yield) of the title compound: 1H NMR (500 MHz, CDCl3); 0.8 (3H, t), 1.3 (1H, qd), 1.4-1.5 (3H, m), 1.6-1.8 (1H, m), 1.9 (1H, dd), 2.0 (1H, td), 2.1 (1H, t), 2.4 (2H, t), 2.5-2.6 (1H, m), 2.7 (1H, d), 2.9 (1H, d), 3.4 (2H, dd), 3.8 (3H, s), 6.8 (2H, d), 7.2 (2H, d); TLC 4% 1N NH3 MeOH:CH2Cl2 Rf=0.42.

reactant | 1-(4-Methoxy-benzyl)-piperidine-3-carboxylic acid methoxy-methyl-amide | 1.37 mmol, 401.0 mg | CON(C(=O)C1CN(CCC1)CC1=CC=C(C=C1)OC)C | C16H24N2O3
reactant | Propylmagnesium chloride | 8.22 mmol, 4.0 mL | C(CC)[Mg]Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-[1-(4-Methoxy-benzyl)-piperidin-3-yl]-butan-1-one | 356.0 mg, 94% yield | COC1=CC=C(CN2CC(CCC2)C(CCC)=O)C=C1 | C17H25NO2
